US06329380B1
Step B: 1-Benzyloxycarbonyl-3-aminomethylpyrrolidine
To a 0° C. solution of 350 mg of 1-benzyloxycarbonyl-3-hydroxymethylpyrrolidine in 10 mL of CH2Cl2 was added 288 mg of diisopropylethylamine, then 204 mg of methanesulfonyl chloride. After 10 min, the cooling bath was removed and the mixture was stirred for 30 min at room temperature. The mixture was diluted with 25 mL of EtOAc and washed with 10 mL of saturated NaHCO3, 2×10 mL of 1 N HCl and 10 mL of brine. The organic phase was dried over MgSO4 and concentrated. The residue was dissolved in 10 mL of DMF and 145 mg of sodium azide was added. The mixture was heated to 100° C. and stirred overnight at this temperature, then cooled, diluted with 25 mL of EtOAc, and washed with 2×10 mL of water and 10 ml of brine. The organic phase was dried over MgSO4 and concentrated. The residue was dissolved in 10 mL of 9:1 THF-water and 586 mg of triphenylphosphine was added. The mixture was heated to 50° C. and stirred at this temperature for 3 h, then cooled, poured into 20 mL of 1 N HCl, and extracted with 2×10 mL of EtOAc. The aqueous phase was made very basic (pH>12) by addition of 5 N NaOH, then extracted with 4×10 mL of EtOAc. The combined organic extracts were washed with 10 mL of brine, dried over MgSO4, and concentrated. The residue was purified by flash chromatography, eluting with 20:1 CH2Cl2-2M NH3 in MeOH, to yield 273 mg of the title compound as a colorless oil. 1H NMR (500 MHz, CDCl3): δ 7.28-7.40 (m, 5H), 5.13 (m, 2H), 3.47-3.67 (m, 2H), 3.38 (dt J=9.8, 16.7 Hz, 1H), 3.09 (ddd, J=7.6, 10.5, 15.1 Hz, 1H), 2.64-2.78 (m, 2H), 2.23 (dt, J=7.8, 15.3 Hz, 1H), 1.96-2.08 (m, 1H), 1.52-1.67 (m, 1H), 1.25 (br s, 2H).

reactant | 1-benzyloxycarbonyl-3-hydroxymethylpyrrolidine | 350 mg | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)CO | C13H17NO3
reactant | diisopropylethylamine | 288 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 204 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzyloxycarbonyl-3-aminomethylpyrrolidine | 273 mg | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)CN | C13H18N2O2
